US06822100B2
A solution of 2-(3-cyano-1H-indol-5-ylmethyl)-cyclopropanecarboxylic acid methoxy-methyl-amide (0.029 g, 0.13 mmol), dimethylamine (0.7 ml, 1.4 mmol, 2M/THF), and methyl alcohol (5 ml) was treated with sodium triacetoxyborohydride (0.28 g, 1.13 mmol) and stirred at ambient temperature for 1 h. The solution was concentrated in vacuo and the residue applied directly to a silica gel column and eluted with chloroform, methyl alcohol, triethylamine 95:5:0.1 to afford 5-(2-Dimethylaminomethyl-cyclopropylmethyl)-1H-indol-3-carbonitrile (23 mg, 69%) as a light salmon colored solid. 1H-NMR (400 MHz, CDCl3) 8.88 (1H, br s), 7.66 (2H, dd, J=19.4, 2.3 Hz), 7.33 (1H, d, J=8.4 Hz), 7.18 (1H, dd, J=8.4, 1.5 Hz), 2.72 (2H, m), 2.25 (6H, s), 2.24 (2H, m), 0.88 (2H, m), 0.53 (1H, m), 0.45 (1H, m).

reactant | 2-(3-cyano-1H-indol-5-ylmethyl)-cyclopropanecarboxylic acid methoxy-methyl-amide | 0.13 mmol, 0.029 g | CON(C(=O)C1C(C1)CC=1C=C2C(=CNC2=CC1)C#N)C | C16H17N3O2
reactant | dimethylamine | 1.4 mmol, 2M, 0.7 ml | CNC | C2H7N
reactant | sodium triacetoxyborohydride | 1.13 mmol, 0.28 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methyl alcohol | 5 ml | CO | CH4O
product | 5-(2-Dimethylaminomethyl-cyclopropylmethyl)-1H-indol-3-carbonitrile | 23 mg, 69% | CN(C)CC1C(C1)CC=1C=C2C(=CNC2=CC1)C#N | C16H19N3
